US05942544
Part A. A solution of 3-(3-cyanophenyl)-5-(4-cyanophenyl)pentanoic acid (0.15 gm, 0.49 mmol), methoxylamine hydrochloride (0.041 gm, 0.54 mmol), 1-(3-dimethylaminopropyl)-3-ethhylcarbodiimide hydrochloride (0.14 gm, 0.73 mmol) and 4-dimethylaminopyridine (0.15 gm, 1.22 mmol) in 5 mLs DMF under a nitrogen atmosphere was stirred for 18 hrs. The reaction solution was poured into water and extracted with ethyl acetate. The combined organic layer was washed with 1 N HCl (2×), water, brine, dried over magnesium sulfate and concentrated to give the crude product as a colorless viscous oil. The product was purified by flash chromatography on silica gel (50 mLs) eluting methylene chloride:ethyl acetate (v:v, 60:40) to give 4-(cyano)-beta-(3-cyanophenyl)-N-methoxybenzene pentanamide as a colorless vicous oil 0.15 gm (91%) 1H NMR (CDCl3): 8.03(bs, 1H), 7.56-7.42(m, 6H), 7.15(d, 2H), 3.58(s, 3H), 3.28(m, 1H), 2.8-1.85(m, 6H).

reactant | 3-(3-cyanophenyl)-5-(4-cyanophenyl)pentanoic acid | 0.49 mmol, 0.15 gm | C(#N)C=1C=C(C=CC1)C(CC(=O)O)CCC1=CC=C(C=C1)C#N | C19H16N2O2
reactant | methoxylamine hydrochloride | 0.54 mmol, 0.041 gm | Cl.O(C)N
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 1.22 mmol, 0.15 gm | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 5 mLs | CN(C)C=O | C3H7NO
product | 4-(cyano)-beta-(3-cyanophenyl)-N-methoxybenzene pentanamide | 0.15 gm, 91% | C(#N)C1=CC=C(C=C1)CCC(CC(=O)NOC)C1=CC(=CC=C1)C#N | C20H19N3O2
